US09145352B2
In a typical run, 2.6 equivalents of phenyl magnesium bromide are added to 1.0 equivalent of 5-bromopentanoyl chloride dissolved in dried diethyl ether under inert atmosphere at 0° C. and stirred during 15 minutes. After this time the mixture is warmed up to room temperature, and then ammonium chloride is added slowly to the mixture, and worked up in the usual manner to produce 5-bromo-1,1-diphenyl-1-pentanol as a white solid. The crude product is then refluxed during 6 hours with p-toluenesulfonic acid (ratio 60:1) under benzene, and worked up in the usual manner to yield 5-bromo-1,1-diphenyl-1-pentene as a yellow oil.

reactant | phenyl magnesium bromide | 2.6 equivalents | C1(=CC=CC=C1)[Mg]Br
reactant | 5-bromopentanoyl chloride | 1.0 equivalent | BrCCCCC(=O)Cl | C5H8BrClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-bromo-1,1-diphenyl-1-pentanol | BrCCCCC(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C17H19BrO
